US08022205B2
4-(2-Morpholin-4-yl-7-pyridin-3-yl-6,7-dihydro-5H-pyrrolo[2,3-d]pyrimidin-4-yl)-benzoic acid methyl ester (B-12)
In the same manner as Example 1-B-10, using 4-chloro-2-morpholin-4-yl-7-pyridin-3-yl-6,7-dihydro-5H-pyrrolo[2,3-d]pyrimidine, and 4-methoxycarbonylphenylboronic acid as a boronic acid, the desired compound was obtained.

reactant | 4-chloro-2-morpholin-4-yl-7-pyridin-3-yl-6,7-dihydro-5H-pyrrolo[2,3-d]pyrimidine | ClC=1C2=C(N=C(N1)N1CCOCC1)N(CC2)C=2C=NC=CC2 | C15H16ClN5O
reactant | 4-methoxycarbonylphenylboronic acid | COC(=O)C1=CC=C(C=C1)B(O)O | C8H9BO4
reactant | boronic acid | B(O)O | BH3O2
product | 4-(2-Morpholin-4-yl-7-pyridin-3-yl-6,7-dihydro-5H-pyrrolo[2,3-d]pyrimidin-4-yl)-benzoic acid methyl ester | COC(C1=CC=C(C=C1)C=1C2=C(N=C(N1)N1CCOCC1)N(CC2)C=2C=NC=CC2)=O | C23H23N5O3
